US06538152B1
To a stirred suspension of methyltriphenylphosphonium bromide (4.1 g) in tetrahydrofuran (40 ml) was added 1.56M n-butyl lithium solution in hexane (7.2 ml) at room temperature, and the mixture was stirred for 1 hour. After the reaction mixture was cooled to −70° C., a solution of methyl 2-benzyloxy-5-formylbenzoate (2.82 g) in tetrahydrofuran (40 ml) was added, and the resulting mixture was stirred for 15 hours with gradually warming up to room temperature. To the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=4/1) gave methyl 2-benzyloxy-5-vinylbenzoate (2.63 g).

reactant | n-butyl lithium | 1.56M | C(CCC)[Li]
reactant | methyl 2-benzyloxy-5-formylbenzoate | 2.82 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C=O | C16H14O4
reactant | water | O | H2O
catalyst | methyltriphenylphosphonium bromide | 4.1 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | 7.2 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | methyl 2-benzyloxy-5-vinylbenzoate | 2.63 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C=C | C17H16O3
